US05747614
(4) Synthesis of 1,2,3,4,5,6,7-heptamethylindenyltitanium trichloride
Titanium tetrachloride in an amount of 15.2 g (80 mmol, 8.8 mL) was dissolved in 100 mL of dehydrated toluene, and to the resultant solution was added dropwise, at room temperature, a solution of 19.52 g of 1,2,3,4,5,6,7-heptamethylindenyltrimethylsilane in 150 mL of toluene over a period of 3 hours. After one hour of heating refluxing of the mixed solution thus obtained, there was produced a toluene-soluble portion at 80° C., which then was extracted twice with 100 mL each of toluene. By filtering off the toluene-insoluble portion, there was obtained a green toluene solution, and the volatile components of which were distilled away at 40° C. under reduced pressure to afford dark green solid. Thereafter, the solid was incorporated with 20 mL of toluene and then with 200 mL of hexane, and the insoluble portion was collected by filtration as the objective product in a yield of 9.43 g (26 mmol) and in a yield rate of 39%. The product was slightly soluble in boiling hexane, readily soluble in toluene, and was analyzed by NMR with the results as follows:

reactant | Titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | 1,2,3,4,5,6,7-heptamethylindenyltrimethylsilane | 19.52 g | CC1(C(=C(C2=C(C(=C(C(=C12)C)C)C)C)C)C)[Si](C)(C)C | C19H30Si
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,5,6,7-heptamethylindenyltitanium trichloride | [Cl-].[Cl-].[Cl-].CC1(C(=C(C2=C(C(=C(C(=C12)C)C)C)C)C)C)[Ti+3] | InChI=1S/C16H21.3ClH.Ti/c1-8-9(2)12(5)16-14(7)10(3)13(6)15(16)11(8)4;;;;/h1-7H3;3*1H;/q;;;;+3/p-3
